US07816522B2
(2b) 2-(4-cyanophenylamino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetamide
After adding 14.2 ml of a 20% aqueous solution of ammonium sulfide to a solution of 2.59 g of 4-{[cyano-(2-fluoro-3,5-dimethoxyphenyl)methyl]amino}benzonitrile in 300 ml of a methanol:THF=2:1 mixed solvent, the mixture was stirred at room temperature for 16 hours. Then, a further 14.2 ml of a 20% aqueous solution of ammonium sulfide was added, and the mixture was stirred at room temperature for 24 hours. Next, 500 ml of ethyl acetate and 800 ml of water were added to the reaction mixture, and the organic layer was washed twice with 300 ml of water and then once with 300 ml of saturated brine. The organic layer was dried over anhydrous magnesium sulfate, the desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate (1:1)) to give the title compound (2.01 g) as a light yellow solid.

reactant | ammonium sulfide | [NH4+]=S
reactant | 4-{[cyano-(2-fluoro-3,5-dimethoxyphenyl)methyl]amino}benzonitrile | 2.59 g | C(#N)C(C1=C(C(=CC(=C1)OC)OC)F)NC1=CC=C(C#N)C=C1 | C17H14FN3O2
reactant | THF | C1CCOC1 | C4H8O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 800 ml | O | H2O
product | 2-(4-cyanophenylamino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetamide | 2.01 g | C(#N)C1=CC=C(C=C1)NC(C(=S)N)C1=C(C(=CC(=C1)OC)OC)F | C17H16FN3O2S
